US05981533
2-Cyano-3-(3-methoxy-benzylamino)-3-methylmercapto-acrylonitrile
A mixture of 17.03 g (0.1 mol) of 3,3-bis-methylmercapto-2-cyano-acrylonitrile, 12.78 ml (0.1 mol) of 3-methoxy-benzylamine and 60 ml of ethyl acetate is heated under reflux for 2 hours and then concentrated by evaporation in vacuo, yielding the oily title compound; TLC-Rf 32 0.28 (toluene/isopropanol [9:1]).

reactant | 3,3-bis-methylmercapto-2-cyano-acrylonitrile | 0.1 mol, 17.03 g | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | 3-methoxy-benzylamine | 0.1 mol, 12.78 ml | COC=1C=C(CN)C=CC1 | C8H11NO
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 2-Cyano-3-(3-methoxy-benzylamino)-3-methylmercapto-acrylonitrile | C(#N)C(C#N)=C(SC)NCC1=CC(=CC=C1)OC | C13H13N3OS
